US06627755B1
A mixture of 3-(2-chloro-phenyl)-2-methyl-3,4-dihydro-quinazolin-4-one (1.0 g, 3.69 mmol) and dimethylformamide dimethyl acetal (0.64 mL, 4.8 mmol) in dimethylformamide (4 mL) was heated to 140° C. for 24 hours. Additional dimethylformamide dimethyl acetal (0.32 mL, 2.4 mmol) was added and heating was continued for an additional 24 hours. The reaction was cooled to ambient temperature and concentrated at reduced pressure (60° C. bath temperature). The dark residue was triturated with methanol and the pale orange solid which formed was collected and dried to give 0.75 g (62%) of 3-(2-chloro-phenyl)-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one which had: mp 228-230° C.; 1H 1H NMR δ 8.19 (d, J=8 Hz, 1H), 7.91 (d, J=12.3 Hz, 1H), 7.71-7.18 (m, 7H), 4.10 (d, J=12.3 Hz, 1H), 2.81 (br s, 6H). Analysis calculated for C18H16ClN3O: C, 66.36; H, 4.95; N, 12.90. Found: C, 66.20; H, 5.03; N, 12.79.

reactant | 3-(2-chloro-phenyl)-2-methyl-3,4-dihydro-quinazolin-4-one | 3.69 mmol, 1.0 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=CC=C2C1=O)C | C15H11ClN2O
reactant | dimethylformamide dimethyl acetal | 4.8 mmol, 0.64 mL | COC(N(C)C)OC | C5H13NO2
reactant | dimethylformamide dimethyl acetal | 2.4 mmol, 0.32 mL | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(2-chloro-phenyl)-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one | 0.75 g, 62% | ClC1=C(C=CC=C1)N1C(=NC2=CC=CC=C2C1=O)C=CN(C)C | C18H16ClN3O
